US05589473
(S)-2-Allyloxycarbonylamino-propionic acid (4R,10S)-16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-14-methoxy -13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-12-oxo-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-10-yl ester was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 1. The resulting product was dissolved in ethyl acetate. Upon addition of 3N hydrochloric acid in diethyl ether, a precipitate formed which was collected to yield (S)-2-amino-propionic acid (4R,10S)-16-hydroxy-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-12-oxo-6-thioxo-1,3,4,5,6,7,8,9, 10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-10-yl ester hydrochloride as a white solid.

reactant | (S)-2-Allyloxycarbonylamino-propionic acid (4R,10S)-16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-14-methoxy -13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-12-oxo-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-10-yl ester | C[Si](OC1=CC(=C(C=2C(O[C@H](CCCC(N[C@@H](CSCC21)C2=NC(=NO2)C)=S)OC([C@H](C)NC(=O)OCC=C)=O)=O)C)OC)(C(C(C)C)(C)C)C | C35H52N4O9S2Si
reactant | ammonium fluoride | [F-].[NH4+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (S)-2-amino-propionic acid (4R,10S)-16-hydroxy-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-12-oxo-6-thioxo-1,3,4,5,6,7,8,9, 10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-10-yl ester hydrochloride | Cl.OC1=CC(=C(C=2C(O[C@H](CCCC(N[C@@H](CSCC21)C2=NC(=NO2)C)=S)OC([C@H](C)N)=O)=O)C)OC | InChI=1S/C23H30N4O7S2.ClH/c1-11-17(31-4)8-16(28)14-9-36-10-15(21-25-13(3)27-34-21)26-18(35)6-5-7-19(32-22(29)12(2)24)33-23(30)20(11)14;/h8,12,15,19,28H,5-7,9-10,24H2,1-4H3,(H,26,35);1H/t12-,15-,19+;/m0./s1
